US05352793
Ethyl 3-pyridyl ketone was reacted with 1-bromo-3-methylbutane according to the procedure of Parb a) of Example 6 to give 1-(3-methylbutyl)-3-propionyl pyridinium bromide as a pale brown crystalline solid.

reactant | Ethyl 3-pyridyl ketone | N1=CC(=CC=C1)C(=O)CC | C8H9NO
reactant | 1-bromo-3-methylbutane | BrCCC(C)C | C5H11Br
product | 1-(3-methylbutyl)-3-propionyl pyridinium bromide | [Br-].CC(CC[N+]1=CC(=CC=C1)C(CC)=O)C | InChI=1S/C13H20NO.BrH/c1-4-13(15)12-6-5-8-14(10-12)9-7-11(2)3;/h5-6,8,10-11H,4,7,9H2,1-3H3;1H/q+1;/p-1
